US09399640B2
Step 5. 4-(4-Chlorophenoxy)-1-methyl-5-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one
Trifluoroacetic acid (1.50 mL) was added dropwise to a solution of 4-(4-chlorophenoxy)-1-methyl-5-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one (0.057 g, 0.103 mmol) in methylene chloride (0.50 mL), and the resultant reaction mixture was stirred at RT for 3 h, after which time the reaction mixture was concentrated in vacuo to give a residue. This residue was dissolved in methanol (0.50 mL), treated with ethylenediamine (0.131 mL, 1.95 mmol) dropwise, and the resultant solution was stirred at RT for 16 h. The reaction mixture was purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (24.6 mg, 60%). 1H NMR (400 MHz, DMSO-d6) δ 11.96 (br s, 1H), 11.20 (br s, 1H), 7.23 (dd, J=2.7, 2.7 Hz, 1H), 7.21-6.99 (m, 5H), 6.70-6.48 (m, 2H), 6.25-6.06 (m, 1H), 3.43 (s, 3H), 3.33 (s, 3H); LCMS calculated for C22H18ClN4O3 (M+H)+: m/z=421.1. found: 421.1.

reactant | Trifluoroacetic acid | 1.50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(4-chlorophenoxy)-1-methyl-5-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one | 0.103 mmol, 0.057 g | ClC1=CC=C(OC2=C(C=CC=3N(C(NC32)=O)C)C=3C2=C(C(N(C3)C)=O)N(C=C2)COCC[Si](C)(C)C)C=C1 | C28H31ClN4O4Si
reactant | ethylenediamine | 1.95 mmol, 0.131 mL | C(CN)N | C2H8N2
solvent | methylene chloride | 0.50 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.50 mL | CO | CH4O
product | 4-(4-Chlorophenoxy)-1-methyl-5-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one | 24.6 mg, 60% | ClC1=CC=C(OC2=C(C=CC=3N(C(NC32)=O)C)C=3C2=C(C(N(C3)C)=O)NC=C2)C=C1 | C22H17ClN4O3
